US07371750B2
A solution of (2-chloro-5-vinyl-pyrimidin-4-yl)-methylamine (2.50 g, 14.7 mmol) in CHCl3/MeOH (15 mL/15 mL) is bubbled by ozone for 30 minutes and then passed by a stream of argon for 3 minutes at −78° C. The reaction mixture is allowed to warm up to room temperature and treated with dimethyl sulfide (3.24 mL, 44.1 mmol). The reaction mixture is concentrated under reduced pressure to give colorless oil that is purified by flash column chromatography (SiO2, EtOAc/Hx=1/3) over silica gel to give 2-chloro-4-methylamino-pyrimidine-5-carbaldehyde (2.40 g, 95%) as a white solid.

reactant | (2-chloro-5-vinyl-pyrimidin-4-yl)-methylamine | 14.7 mmol, 2.50 g | ClC1=NC=C(C(=N1)NC)C=C | C7H8ClN3
reactant | ozone | O=[O+][O-] | O3
reactant | dimethyl sulfide | 44.1 mmol, 3.24 mL | CSC | C2H6S
solvent | CHCl3 MeOH | 15 mL | C(Cl)(Cl)Cl.CO
product | 2-chloro-4-methylamino-pyrimidine-5-carbaldehyde | 2.40 g, 95% | ClC1=NC=C(C(=N1)NC)C=O | C6H6ClN3O
